* source REALIMENTADOR
V_V3         VCC 0 30Vdc
V_V5         5V 0 5Vdc
V_V4         0 VEE 30Vdc
V_V6         N32277 0  
+SIN 0 1.1 10k 0 0 0
C_C5         VS N29886  1u  TC=0,0 
R_R8         N30086 0  1 TC=0,0 
R_R2         N29996 N29904  10 TC=0,0 
C_C1         0 N30252  2.2n  TC=0,0 
R_R11         0 N30110  1 TC=0,0 
V_V1         N29996 VEE 12Vdc
R_R9         N30164 0  1 TC=0,0 
D_D6         N29904 N29886 D1N4148 
C_C2         VEE N29996  10u  TC=0,0 
C_C4         VEE N29996  220n  TC=0,0 
X_U1         0 N30252 0 N30110 N30196 N30164 N30086 HO LO PWM_IN 5V 5V N29886
+  N29996 VS VEE UCC20520_TRANS
R_R1         0 N30252  2.2k TC=0,0 
C_C6         VS N29886  100n  TC=0,0 
R_R10         0 N30196  1 TC=0,0 
C_C3         VEE N29996  10u  TC=0,0 
D_D3         N31116 HO MURS320T3G 
R_R5         N31116 N31122  1.2 TC=0,0 
R_R4         HO N31122  3.3 TC=0,0 
R_R6         N31336 N31342  1.2 TC=0,0 
X_M1         VCC N31122 VS PHB27NQ10T/PLP
C_C7         VS N31122  1n  TC=0,0 
C_C8         VEE N31342  1n  TC=0,0 
L_L1         VS VO  33u  
C_C9         0 VO  330n  TC=0,0 
X_M2         VS N31342 VEE PHB27NQ10T/PLP
R_R3         LO N31342  3.3 TC=0,0 
D_D4         N31336 LO MURS320T3G 
R_R7         0 VO  8 TC=0,0 
V_V7         0 -5V 5Vdc
V_V8         15V 0 15Vdc
V_V9         0 -15V 15Vdc
R_R14         N32061 VS  19k TC=0,0 
R_R15         0 N32061  1k TC=0,0 
R_R16         N32277 N32247  1k TC=0,0 
R_R17         0 N32247  82k TC=0,0 
C_C11         0 N32247  220p  TC=0,0 
X_U4         N32061 N36108 15V -15V N36108 AD817/AD
R_R18         N36228 N36108  1k TC=0,0 
R_R19         N36228 VERROR  82k TC=0,0 
C_C12         N36228 VERROR  220p  TC=0,0 
V_V2         VTRIANG 0  
+PULSE -1.5 1.5 0 2.499u 2.499u 1n 5u
R_R21         PWM_IN N37031  51 TC=0,0 
C_C13         0 PWM_IN  33p  TC=0,0 
R_R20         N37031 5V  1k TC=0,0 
X_U7         VERROR VTRIANG 15V -15V N37031 0 LM311 
X_U8         N32247 N36228 15V -15V VERROR AD817/AD
