* source REALIMENTADOR
V_V3         VCC 0 30Vdc
V_V5         5V 0 5Vdc
V_V4         0 VEE 30Vdc
V_V6         VERROR 0  
+SIN 0 1.1 20k 0 0 0
V_V7         0 -5V 5Vdc
V_V8         15V 0 15Vdc
V_V9         0 -15V 15Vdc
R_R14         N32061 0  19k TC=0,0 
R_R15         0 N32061  1k TC=0,0 
R_R16         0 N32249  1k TC=0,0 
R_R17         0 N32249  82k TC=0,0 
R_R18         N36230 N36112  1k TC=0,0 
R_R19         N36230 N36267  82k TC=0,0 
V_V2         VTRIANG 0  
+PULSE -1.5 1.5 0 2.499u 2.499u 1n 5u
R_R21         PWM_IN N37031  51 TC=0,0 
C_C13         0 PWM_IN  33p  TC=0,0 
R_R20         N37031 5V  1k TC=0,0 
X_U7         VERROR VTRIANG 15V -15V N37031 0 LM311 
C_C6         VS N40177  100n  TC=0,0 
C_C3         VEE N40287  10u  TC=0,0 
R_R2         N40287 N40195  10 TC=0,0 
R_R8         N40377 0  1 TC=0,0 
R_R11         0 N40401  1 TC=0,0 
C_C4         VEE N40287  220n  TC=0,0 
R_R9         N40455 0  1 TC=0,0 
D_D6         N40195 N40177 D1N4148 
R_R1         0 N40543  2.2k TC=0,0 
C_C1         0 N40543  2.2n  TC=0,0 
R_R10         0 N40487  1 TC=0,0 
X_U1         0 N40543 0 N40401 N40487 N40455 N40377 HO LO PWM_IN 5V 5V N40177
+  N40287 VS VEE UCC20520_TRANS
C_C5         VS N40177  1u  TC=0,0 
V_V1         N40287 VEE 12Vdc
C_C2         VEE N40287  10u  TC=0,0 
C_C8         VEE N41698  1n  TC=0,0 
D_D3         N41468 HO MURS320T3G 
X_M1         VCC N41474 VS PHB27NQ10T/PLP
X_M2         VS N41698 VEE PHB27NQ10T/PLP
R_R4         HO N41474  3.3 TC=0,0 
R_R3         LO N41698  3.3 TC=0,0 
L_L1         VS VO  33u  
C_C7         VS N41474  1n  TC=0,0 
R_R6         N41692 N41698  1.2 TC=0,0 
D_D4         N41692 LO MURS320T3G 
R_R5         N41468 N41474  1.2 TC=0,0 
R_R7         0 VO  8 TC=0,0 
C_C9         0 VO  330n  TC=0,0 
X_U9         N32249 N36230 15V -15V N36267 AD817/AD
X_U11         N32061 N36112 15V -15V N36112 AD817/AD
C_C15         N36230 N36267  220p  TC=0,0 
C_C16         0 N32249  220p  TC=0,0 
